US08487108B2
To a solution of (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-hydroxyethoxy)butyl)piperidine-1-carboxylate (750 mg, 1.82 mmol) in dry CH2Cl2 (10 mL) was added Et3N (550 mg, 5.46 mmol) at −5-0° C. Then a solution of MsCl (270 mg, 2.37 mmol) in dry CH2Cl2 (5 mL) was added dropwise at the same temperature. After addition, it was allowed to warm to rt gradually. Upon completion of the reaction, water (20 mL) was added. The aqueous layer was extracted with CH2Cl2 (3×30 mL). The combined organic layers was washed with 10% citric acid, sat. NaHCO3 and brine, then dried over Na2SO4, filtered and concentrated to give (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(methylsulfonyloxy)ethoxy)butyl)piperidine-1-carboxylate (900 mg, 99%), which was used in the next step without purification.

reactant | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-hydroxyethoxy)butyl)piperidine-1-carboxylate | 1.82 mmol, 750 mg | ClC=1C=C(C=CC1)[C@](CCC)(OCCO)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34ClNO4
reactant | Et3N | 5.46 mmol, 550 mg | CCN(CC)CC | C6H15N
reactant | MsCl | 2.37 mmol, 270 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 20 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-1-(3-chlorophenyl)-1-(2-(methylsulfonyloxy)ethoxy)butyl)piperidine-1-carboxylate | 900 mg, 99% | ClC=1C=C(C=CC1)[C@](CCC)(OCCOS(=O)(=O)C)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C23H36ClNO6S
